US08445489B2
Ethyl {3-[3-(4-hydroxyphenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}carbamate
5 g (17.3 mmol) of tert-butyl 4-(6-oxo-1,6-dihydropyridazin-3-yl)phenylcarboxylate, 5.08 g (26 mmol) of ethyl (3-hydroxymethylphenyl)carbamate and 6.8 g (26 mmol) of triphenylphosphine are dissolved in 400 ml of THF. Under a nitrogen atmosphere, the yellow solution is cooled to 0° C., 4.1 ml (26 mmol) of diethyl azodicarboxylate are slowly added dropwise, and the reaction mixture is stirred at room temperature for 20 h. The yellow suspension is evaporated to dryness. The residue is dissolved in 300 ml of dichloromethane, and 40 ml of trifluoroacetic acid are added. The reaction mixture is stirred at room temperature for 20 h, evaporated to dryness, and 100 ml of water, 200 ml of 1N NaOH and 100 ml of ethyl acetate are added to the viscous oil. A precipitate forms in the process, which is filtered off with suction, washed with water and dried in vacuo.

reactant | tert-butyl 4-(6-oxo-1,6-dihydropyridazin-3-yl)phenylcarboxylate | 17.3 mmol, 5 g | O=C1C=CC(=NN1)C1=CC=C(C=C1)C(=O)OC(C)(C)C | C15H16N2O3
reactant | ethyl (3-hydroxymethylphenyl)carbamate | 26 mmol, 5.08 g | OCC=1C=C(C=CC1)NC(OCC)=O | C10H13NO3
reactant | triphenylphosphine | 26 mmol, 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 26 mmol, 4.1 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Ethyl {3-[3-(4-hydroxyphenyl)-6-oxo-6H-pyridazin-1-ylmethyl]phenyl}carbamate | OC1=CC=C(C=C1)C1=NN(C(C=C1)=O)CC=1C=C(C=CC1)NC(OCC)=O | C20H19N3O4
